US08912208B2
A. (5-Bromopyrimidin-2-yl)-(3-fluorophenyl)-amine
In a microwave vial is added 3-fluorophenylamine (0.293 mL, 2.58 mmol), 5-bromo-2-chloropyrimidine (500 mg, 2.58 mmol), EtOH (10 mL) and concentrated HCl (0.2 mL). The reaction mixture is then heated at 50° C. for 15 min. Water (20 mL) is added and it is extracted with EtOAc. The organic layer is washed with NaHCO3, dried with Na2SO4 and concentrated. The residue is purified by column chromatography to give the title compound: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 6.83-6.88 (m, 1 H) 7.24-7.26 (m, 1 H) 7.28 (br. s., 1H) 7.34-7.40 (m, 1 H)7.74 (dt, J=11.37, 2.27 Hz, 1 H) 8.56 (s, 2 H); (M+H)+ 269.9.

reactant | 3-fluorophenylamine | 2.58 mmol, 0.293 mL | FC=1C=C(C=CC1)N | C6H6FN
reactant | 5-bromo-2-chloropyrimidine | 2.58 mmol, 500 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | HCl | 0.2 mL | Cl | ClH
solvent | Water | 20 mL | O | H2O
product | (5-Bromopyrimidin-2-yl)-(3-fluorophenyl)-amine | BrC=1C=NC(=NC1)NC1=CC(=CC=C1)F | C10H7BrFN3
